Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
ESRD
 
Major Surgical or Invasive Procedure:
living non-related renal transplant ___

 
History of Present Illness:
___ male with end-
stage renal disease diagnosed in ___ with no known etiology.
He has been maintained on hemodialysis, and he presents today
for an elective living-unrelated renal transplant.

 
Past Medical History:
none
 
Social History:
___
Family History:
___, CAD, CKD
 
Physical Exam:
VS:  98.3, 78, 120/50, 18, 99% 2L
General: NAD, A+Ox3, pain controlled with PCA
Card: RRR
Lungs: CTA bilaterally
Abd: Soft, appropriately tender, non-distended, dressing C/D/I 
mild staining. JP drain in place with sero-sanguinous drainage
Extr: No edema, + pedal pulses

 
Pertinent Results:
___ 12:43PM BLOOD WBC-16.6*# RBC-3.15* Hgb-10.0* Hct-30.7* 
MCV-98 MCH-31.9 MCHC-32.7 RDW-12.3 Plt ___
___ 12:43PM BLOOD Glucose-114* UreaN-51* Creat-8.7*# Na-138 
K-4.8 Cl-97 HCO3-26 AnGap-20
___ 07:50AM BLOOD Glucose-96 UreaN-23* Creat-1.4*# Na-135 
K-4.7 Cl-104 HCO3-23 AnGap-13
.
At Discharge;
 
Brief Hospital Course:
On ___, he underwent living unrelated renal transplant from 
his friend. ___ was Dr. ___. Please refer to 
operative note for complete details. A double-J ureteral stent 
was placed across ureterovesicular anastomosis. A ___ 
___ drain was placed in the retroperitoneum adjacent to the 
anastomoses. Urine output was excellent and was matched with 
hourly IV fluid replacement. Creatinine decreased to 3.8 on 
postop day from pre-op creatinine of 10.4. This subsequently 
decreased to 1.4 on postop day 2. IV fluid replacements were 
decreased and then stopped on postop day 3. The foley was 
removed on postop day 3 without incident. 

Vital signs were stable. Hematocrit decreased to 26.5 from preop 
33. Hct then remained stable at_____. JP output was 
serosanguinous with output decreasing to ___by postop day 3 when 
drain was __________. Incision has small amount of redness which 
was likely ecchymosis. The JP was removed on _____. 

Diet was advanced and tolerated. He was passing ___ and had a BM 
on _____. 

Immunosuppression consisted of 3 doses of ATG (100mg each), 
CellCept bid, tapered steroids and Prograf which was adjusted 
per trough level. Dose was increased to _____. 

He was ambulating independently. Morphine PCA was switched to 
Oxycodone when diet was tolerated on postop day 2. He did 
require break thru pain medication on postop day 2. 

Medications were given a suspension form or crushed as he has 
difficulty swallowing medication in the pill form. Home meds 
were ordered and delivered. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Renal Caps (B complex-vitamin C-folic acid) 1 mg oral Daily 
2. lanthanum 1,000 mg oral TID w/meals 
3. sevelamer CARBONATE 800 mg PO TID W/MEALS 

 
Discharge Medications:
1. Acetaminophen (Liquid) 650 mg PO Q6H:PRN Pain 
do not take more than 3000mg per day 
2. Docusate Sodium (Liquid) 100 mg PO BID 
3. Mycophenolate Mofetil Suspension 1000 mg PO BID 
4. Nicotine Patch 14 mg TD DAILY 
5. Nystatin Oral Suspension 5 ml PO QID 
6. OxycoDONE Liquid ___ mg PO Q4H:PRN Pain 
7. Ranitidine (Liquid) 150 mg PO BID 
8. Sulfameth/Trimethoprim Suspension 10 mL PO DAILY 
9. ValGANCIclovir Oral Solution 900 mg PO DAILY 
10. PredniSONE 25 mg PO ONCE Duration: 1 Dose 
11. Tacrolimus 10 mg PO Q12H 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
ESRD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
___ Care Network will follow you. You will receive a call to set 
up home visit. 

Please call the transplant clinic at ___ for fever > 
101, chills, nausea, vomiting, diarrhea, constipation, inability 

to tolerate food, fluids or medications, pain over the graft 
kidney, increased abdominal pain, incisional redness, drainage 
or bleeding, dizziness or weakness, decreased urine output or 
dark, cloudy urine, swelling of abdomen or ankles, or any other 
concerning symptoms.

You will have labwork drawn twice weekly as arranged by the 
transplant clinic.

On the days you have your labs drawn, do not take your prograf 
until your labs are drawn. Bring your prograf with you so you 
may take your medication as soon as your labwork has been drawn.

Follow your medication card, keep it updated with any dosage 
changes, and always bring your card with you to any clinic or 
hospital visits.

You may shower. Allow the water to run over your incision and 
pat area dry. No rubbing, no lotions or powder near the 
incision. You may leave the incision open to the air. The 
staples are removed approximately 3 weeks following your 
transplant.
No tub baths or swimming

No driving if taking narcotic pain medications

Avoid direct sun exposure. Wear protective clothing and a hat, 
and always wear sunscreen with SPF 30 or higher when you go 
outdoors.

Drink enough fluids to keep your urine light in color. Your 
appetite will return with time. Eat small frequent meals, your 
appetite will return.

Check your blood pressure at home. Report consistently elevated 
values to the transplant clinic

Do not increase, decrease, stop or start medications without 
consultation with the transplant clinic at ___. There 
are significant drug interactions with anti-rejection 
medications which must be considered in medication management 
following transplant

Please refer to your Transplant binder for further information

 
Followup Instructions:
___